US08865744B1
5.00 g (25.0 mmol) of BOC-4-aminopiperidine are dissolved in pyridine (19.8 mL) and cooled in an ice bath. 2.13 mL (27.5 mmol) of methanesulfonyl chloride are added slowly. The reaction is stirred at RT for 16 h. After diluting with water, the reaction is extracted with DCM. Organic layers are washed with water, dried with MgSO4 and filtered. The solvent is removed under reduced pressure to afford 6.30 g of (1-Methanesulfonyl-piperidin-4-yl)-carbamic acid tert-butyl ester. Yield: 91%; ESI-MS: 279 [M+H]+

reactant | BOC-4-aminopiperidine | 25.0 mmol, 5.00 g | C(=O)(OC(C)(C)C)N1CCC(CC1)N | C10H20N2O2
reactant | methanesulfonyl chloride | 27.5 mmol, 2.13 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 19.8 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | (1-Methanesulfonyl-piperidin-4-yl)-carbamic acid tert-butyl ester | 6.30 g, Yield: 91% | C(C)(C)(C)OC(NC1CCN(CC1)S(=O)(=O)C)=O | C11H22N2O4S
